US08003604B2
To a mixture of (2S,4S)-Boc-4-phenylpyrrolidine-2-carboxylic acid (0.711 g 2.44 mmol) (purchased from Chem-Impex International, Inc.), diisopropylethylamine (0.948 g, 7.33 mmol), and cyclopropanesulfonic acid (1-(R)-amino-2-(S)-vinyl-cyclopropanecarbonyl)amide HCl salt (0.561 g, 2.44 mmol) in dichloromethane (24 mL) was added HATU (1.21 g, 3.18 mmol). After stirring the reaction mixture for 14 hours, it was washed with 5% aqueous NaHCO3 (50 mL), and 5% aqueous citric acid (50 mL). Each aqueous layer was sequentially extracted with 2×25 mL dichloromethane. The combined organic layer was dried over MgSO4, filtered, and concentrated. The resulting brown viscous oil was purified by flash column chromatography (SiO2, 97:3, dichloromethane:methanol) to give (2S,4S)-tert-butyl 2-((1R,2S)-1-(cyclopropylsulfonylcarbamoyl)-2-vinylcyclopropylcarbamoyl)-4-phenylpyrrolidine-1-carboxylate as a brown foamy solid (0.973 g, 79% yield). 1H NMR (CD3OD, 500 MHz) δ 0.91 (br s, 1H), 1.03 (d, J=6.4 Hz, 1H), 1.16-1.23 (m, 1H), 1.31-1.38 (m, 1H), 1.44 (dd, J=9.6, 5.6 Hz, 1H), 1.48 (s, 4H), 1.52 (s, 5H), 1.89 (t, J=6.4 Hz), 2.09 (q, J=8.4 Hz, 0.4H), 2.19 (q, J=8.6 Hz, 0.6H), 2.85-2.90 (m, 0.4H), 2.92-2.97 (m, 0.6H), 3.44 (t, J=9.6 Hz, 1H), 3.65 (p, J=8.0 Hz, 1H), 3.93-4.01 (m, 1H), 4.29 (dd, J=10.1, 6.7 Hz, 1H), 5.12 (d, J=10.1 Hz, 1H), 5.30 (d, J=18.0 Hz, 1H), 5.75-5.82 (m, 1H), 7.24 (t, J=6.9 Hz, 1H), 7.29-7.33 (m, 5H); MS m/z 504 (M+Na).

reactant | (2S,4S)-Boc-4-phenylpyrrolidine-2-carboxylic acid | 2.44 mmol, 0.711 g | C(=O)(OC(C)(C)C)N1[C@@H](C[C@H](C1)C1=CC=CC=C1)C(=O)O | C16H21NO4
reactant | diisopropylethylamine | 7.33 mmol, 0.948 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | cyclopropanesulfonic acid (1-(R)-amino-2-(S)-vinyl-cyclopropanecarbonyl)amide HCl salt | 2.44 mmol, 0.561 g | Cl.N[C@]1([C@@H](C1)C=C)C(=O)NS(=O)(=O)C1CC1
reactant | HATU | 3.18 mmol, 1.21 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dichloromethane | 24 mL | ClCCl | CH2Cl2
product | (2S,4S)-tert-butyl 2-((1R,2S)-1-(cyclopropylsulfonylcarbamoyl)-2-vinylcyclopropylcarbamoyl)-4-phenylpyrrolidine-1-carboxylate | 0.973 g, 79% yield | C1(CC1)S(=O)(=O)NC(=O)[C@@]1([C@@H](C1)C=C)NC(=O)[C@H]1N(C[C@@H](C1)C1=CC=CC=C1)C(=O)OC(C)(C)C | C25H33N3O6S
